US07109225B2
c] 3-[4-(2-tert-Butyl-5-methyl-oxazol-4-ylmethoxy)-benzo[b]thiophen-7-yl]-2-ethoxy-propionic acid ethyl ester
0.200 g of the above prepared 3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-benzo[b]thiophen-7-yl]-2-ethoxy-3-hydroxy-propionic acid ethyl ester (0.433 mmol) was dissolved in 1.4 ml of trifluoroacetic acid, treated at 0° with 0.688 ml of triethylsilane (10 eq.) and then kept for 6 h at 0° under vigorous stirring. The reaction mixture was then poured onto crashed ice/AcOEt/NaHCO3, the organic layer washed with water (pH of aq. phase ˜8), dried over magnesium sulfate, and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=8/2) yielded 0.127 g of the title compound as colorless oil.

reactant | 3-[4-(2-tert-butyl-5-methyl-oxazol-4-ylmethoxy)-benzo[b]thiophen-7-yl]-2-ethoxy-3-hydroxy-propionic acid ethyl ester | 0.433 mmol | C(C)OC(C(C(O)C1=CC=C(C2=C1SC=C2)OCC=2N=C(OC2C)C(C)(C)C)OCC)=O | C24H31NO6S
reactant | triethylsilane | 0.688 ml, 10 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 1.4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[4-(2-tert-Butyl-5-methyl-oxazol-4-ylmethoxy)-benzo[b]thiophen-7-yl]-2-ethoxy-propionic acid ethyl ester | 0.127 g | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCC=2N=C(OC2C)C(C)(C)C)OCC)=O | C24H31NO5S
